US05395946
A solution of 217 g 2-isopropyl-5-hydroxymethyl-1,3-dioxane in 11 of carbon tetrachloride is added dropwise to a solution of 356 g triphenylphosphine in 1 l of carbon tetrachloride, heated to 70° C. The mixture is refluxed and after approx. 1 hour cooled down (ice-bath), filtrated and evaporated. The residue is repeatedly treated with diethylether and filtered. After evaporating the filtrate the residue is purified by distillation. The desired 2-isopropyl-5-chloromethyl-1,3-dioxane is obtained as a colorless liquid; b.p. 84°-94° C. mm Hg; cis-trans mixture; identification by NMR.

reactant | 2-isopropyl-5-hydroxymethyl-1,3-dioxane | 217 g | C(C)(C)C1OCC(CO1)CO | C8H16O3
reactant | triphenylphosphine | 356 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 1 l | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-isopropyl-5-chloromethyl-1,3-dioxane | C(C)(C)C1OCC(CO1)CCl | C8H15ClO2
